US05686445
A mixture of 1.85 g of 4-[(2-methyl-3-fluoro-benzoyl)amino]-2-chlorobenzoic acid in 30 ml of thionyl chloride under argon is heated at reflux for 1 hour. The thionyl chloride is evaporated in vacuo to a residue which is stirred with hexane and collected to give 1.94 g of 4-[(2-methyl-3-fluorobenzoyl)amino]-2-chlorobenzoyl chloride which is dissolved in 25 ml of methylene chloride and 0.49 g of N,N-diisopropylethylamine added, followed by 0.65 g of 6,11-dihydro-5H-dibenz[b,e]azepine. The reactants are stirred at room temperature for 18 hours and washed with water, saturated NaHCO3, dried (Na2SO4) and passed through a short pad of hydrous magnesium silicate to give 1.19 g of the desired product as a glass.

reactant | 4-[(2-methyl-3-fluoro-benzoyl)amino]-2-chlorobenzoic acid | 1.85 g | CC1=C(C(=O)NC2=CC(=C(C(=O)O)C=C2)Cl)C=CC=C1F | C15H11ClFNO3
reactant | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-[(2-methyl-3-fluorobenzoyl)amino]-2-chlorobenzoyl chloride | 1.94 g | CC1=C(C(=O)NC2=CC(=C(C(=O)Cl)C=C2)Cl)C=CC=C1F | C15H10Cl2FNO2
